US04957927
(a) 1-(diphenylmethoxy)-2-bromoethane
37.5 g (0.3 mole) of 2-bromoethanol was added to a mixture of 61.8 g (0.25 mole) of bromodiphenylmethane and 31.8 g (0.3 mole) of sodium carbonate. The reactive medium was slowly heated to 130° C., held at this temperature for 5 hours and then left overnight at room temperature. The mixture was taken up with ether and washed with water. The ethereal extract was dried on sodium sulfate. The evaporation of the ether yielded an oil, which was purified by distillation.

reactant | 2-bromoethanol | 0.3 mole, 37.5 g | BrCCO | C2H5BrO
reactant | bromodiphenylmethane | 0.25 mole, 61.8 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | sodium carbonate | 0.3 mole, 31.8 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
product | 1-(diphenylmethoxy)-2-bromoethane | C1(=CC=CC=C1)C(OCCBr)C1=CC=CC=C1 | C15H15BrO
